US07691882B2
3-(3-(4-(2-Furan-2-yl-ethyl)-benzyl)-isoxazol-5-yl)-pyridin-2,6-diamine
To a mixture of (4-(2-furan-2-yl-ethyl)phenyl)-acetohydroximoyl chloride (100 mg, 0.38 mmol) described in Manufacturing Example 80-1-7 and tetrahydrofuran (3 mL) were added 3-ethynyl-pyridin-2,6-diamine (25.3 mg, 0.19 mmol) described in Manufacturing Example 13-1-3 and triethylamine (0.1 mL, 0.76 mmol), which was stirred for 2 hours at room temperature. Water and ethyl acetate were added to the reaction mixture, and the organic layer was separated. This organic layer was washed with water and saturated aqueous sodium chloride and dried over anhydrous magnesium sulfate, and the solvent was evaporated under a reduced pressure. The residue was purified by NH silica gel column chromatography (ethyl acetate:heptane=1:1 then ethyl acetate) to obtain the title compound (50 mg, 72%).

reactant | (4-(2-furan-2-yl-ethyl)phenyl)-acetohydroximoyl chloride | 0.38 mmol, 100 mg | O1C(=CC=C1)CCC1=CC=C(C=C1)CC(=NO)Cl | C14H14ClNO2
reactant | tetrahydrofuran | 3 mL | O1CCCC1 | C4H8O
reactant | 3-ethynyl-pyridin-2,6-diamine | 0.19 mmol, 25.3 mg | C(#C)C=1C(=NC(=CC1)N)N | C7H7N3
reactant | triethylamine | 0.76 mmol, 0.1 mL | C(C)N(CC)CC | C6H15N
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | Water | O | H2O
product | 3-(3-(4-(2-Furan-2-yl-ethyl)-benzyl)-isoxazol-5-yl)-pyridin-2,6-diamine | 50 mg, 72% | O1C(=CC=C1)CCC1=CC=C(CC2=NOC(=C2)C=2C(=NC(=CC2)N)N)C=C1 | C21H20N4O2
